US06518222B2
1. Preparation of Methyl 4-bromo-3-hydroxy-2-thiophenecarboxylate
To a solution of 31 g (0.2 mole) of methyl 3-hydroxy-2-thiophenecarboxylate in 400 milliliters (mL) of glacial acetic acid was added 31.3 g (0.2 mole) of Br2 over 45 minutes (min). After 16 hours (hr), another 31.3 g of Br2 was added over 6 hr and the reaction was stirred another 18 hr. The reaction mixture was poured into aqueous NaHSO3 and extracted with ether. The organic phase was separated, washed with water (2×300 mL), dried over MgSO4, filtered and concentrated to a viscous oil. This oil (47 g) was dissolved in 200 mL of methanol and after 48 hr at 15° C., 36 g (77%) of light pink crystals were collected by filtration. mp 79-80° C. 1H NMR (300 MHz, CDCl3): δ 9.8 (br, 1H); 7.4 (s, 1H); 3.9 (s, 3H). Anal. Calc'd for C6H5BrO3S: C, 30.04; H, 2.23; S, 13.52. Found: C, 30.04; H, 1.92; S, 14.01.

reactant | methyl 3-hydroxy-2-thiophenecarboxylate | 0.2 mole, 31 g | OC1=C(SC=C1)C(=O)OC | C6H6O3S
reactant | Br2 | 0.2 mole, 31.3 g | BrBr | Br2
reactant | Br2 | 31.3 g | BrBr | Br2
reactant | NaHSO3 | OS(=O)[O-].[Na+]
solvent | acetic acid | 400 milliliters | C(C)(=O)O | C2H4O2
product | Methyl 4-bromo-3-hydroxy-2-thiophenecarboxylate | BrC=1C(=C(SC1)C(=O)OC)O | C6H5BrO3S
